US06451821B1
0.6 g of 1,2,4-triazole is added, at a temperature in the region of 20° C. and under an inert atmosphere, to a solution of 0.35 g of sodium hydride in 7 cm3 of dimethyl sulphoxide. The mixture is stirred at a temperature in the region of 20° C. for 45 minutes, followed by addition of 1 g of tert-butyl N-[(4RS)-4-(iodomethyl)-4,5-dihydro-2-thiazolyl]carbamate. After stirring for 3 hours at a temperature in the region of 60° C., 30 cm3 of saturated ammonium chloride solution are added to the reaction medium and the resulting mixture is extracted with 4 times 10 cm3 of ethyl acetate. The organic phases are washed with 10 cm3 of saturated sodium chloride solution, dried over magnesium sulphate, filtered and then concentrated under reduced pressure (1 kPa) at a temperature in the region of 40° C. The residue is chromatographed under an argon pressure of 70 kPa on a column of silica gel (particle size 40-63μ; diameter 4 cm; height 18 cm), eluting with a dichloromethane/methanol mixture (5/1 by volume). The fractions containing the expected product are combined and then concentrated under the above conditions. 0.34 g of tert-butyl N-[(4RS)-4-(1,2,4-triazol-1-ylmethyl)-4,5-dihydro-2-thiazolyl]carbamate is obtained in the form of a white foam [mass spectrum: EI m/z=283 M+ m/z=201 C8H13N2O2S+ m/z=145 C4H5N2O2S+ m/z=101 C3H5N2S30 m/z=82 C3H4N3+ m/z=57 C4H9+]

reactant | 1,2,4-triazole | 0.6 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 0.35 g | [H-].[Na+]
reactant | tert-butyl N-[(4RS)-4-(iodomethyl)-4,5-dihydro-2-thiazolyl]carbamate | 1 g | ICC1N=C(SC1)NC(OC(C)(C)C)=O | C9H15IN2O2S
reactant | ammonium chloride | 30 cm3 | [Cl-].[NH4+]
solvent | dimethyl sulphoxide | 7 cm3 | CS(=O)C | C2H6OS
product | tert-butyl N-[(4RS)-4-(1,2,4-triazol-1-ylmethyl)-4,5-dihydro-2-thiazolyl]carbamate | 0.34 g | N1(N=CN=C1)CC1N=C(SC1)NC(OC(C)(C)C)=O | C11H17N5O2S
